US06437184B1
A mixture of 0.34 g of (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)-phenoxy)acetone, 0.24 g of O-(3-(5-trifluoromethyl-2-pyridyloxy)propyl)-hydroxylamine, 0.14 g of pyridinium chloride, and 10 ml of pyridine was stirred at room temperature for 2 hours. The reaction mixture was poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.40 g (yield, 71%) of (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-acetone O-(3-(5-trifluoromethyl-2-pyridyloxy)propyl)oxime, nD23.0 1.5310.

reactant | (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)-phenoxy)acetone | 0.34 g | ClC1=C(OCC(C)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C12H10Cl4O3
reactant | O-(3-(5-trifluoromethyl-2-pyridyloxy)propyl)-hydroxylamine | 0.24 g | FC(C=1C=CC(=NC1)OCCCON)(F)F | C9H11F3N2O2
reactant | pyridinium chloride | 0.14 g | [Cl-].[NH+]1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-acetone O-(3-(5-trifluoromethyl-2-pyridyloxy)propyl)oxime | 0.40 g, 71% | FC(C=1C=CC(=NC1)OCCCON=C(C)COC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl)(F)F | C21H19Cl4F3N2O4
